US09315498B2
Step 1: 2-Methyl-4-(6-phenylethynyl-pyridazin-3-ylamino)-butan-2-ol
A solution of 3-chloro-6-(phenylethynyl)pyridazine (CAS 77778-15-5) (125 mg, 0.582 mmol) and 4-amino-2-methylbutan-2-ol hydrochloride (244 mg, 1.75 mmol, 3 equiv.) and triethylamine (206 mg, 284 ml, 2.04 mmol, 2 equiv.) in 1.25 ml of pyridine was heated 20 hours at 85° C. The solvent was removed in vaccuo. The residue was taken up in ethyl acetate/methanol, adsorbed onto 4 g of silica and purified on a 20 g flash chromatography column using a heptane/ethyl acetate 85:15 to 15:85 gradient to yield 44 mg (27% yield) of the title compound as a crystalline white solid, MS: m/e=282.2 (M+H+).

reactant | 3-chloro-6-(phenylethynyl)pyridazine | 0.582 mmol, 125 mg | ClC=1N=NC(=CC1)C#CC1=CC=CC=C1 | C12H7ClN2
reactant | 4-amino-2-methylbutan-2-ol hydrochloride | 1.75 mmol, 244 mg, 3 equiv. | Cl.NCCC(C)(O)C
reactant | triethylamine | 2.04 mmol, 284 ml, 206 mg, 2 equiv. | C(C)N(CC)CC | C6H15N
solvent | pyridine | 1.25 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-4-(6-phenylethynyl-pyridazin-3-ylamino)-butan-2-ol | 44 mg, 27% yield | CC(C)(CCNC=1N=NC(=CC1)C#CC1=CC=CC=C1)O | C17H19N3O
